US05116862
Dimethyl 1-acetylcyclohexane-1,4-dicarboxylate (23.3 g) was added to a solution of concentrated hydrochloric acid (253 ml) in ethanol (126 ml). After refluxing for 10 hours the reaction mixture was poured into water and then extracted with dichloromethane. The organic phase was then washed with saturate sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulphate the solvent was removed under reduced pressure to give methyl 4-acetylcyclohexanecarboxylate as a colourless oil. This was purified by distillation (b.pt 138°-145° C. at 14 mmHg).

reactant | Dimethyl 1-acetylcyclohexane-1,4-dicarboxylate | 23.3 g | C(C)(=O)C1(CCC(CC1)C(=O)OC)C(=O)OC | C12H18O5
reactant | hydrochloric acid | 253 ml | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 126 ml | C(C)O | C2H6O
product | methyl 4-acetylcyclohexanecarboxylate | C(C)(=O)C1CCC(CC1)C(=O)OC | C10H16O3
